US07851473B2
(1) 3-Phenylisoxazole-5-amine
A mixture of 3-oxo-3-phenylpropanenitrile (5.00 g, 34.4 mmol), hydroxylamine sulfate (3.10 g, 18.9 mmol), ethanol (35 ml) and an aqueous solution (35 ml) of sodium hydroxide (1.66 g, 41.4 mmol) was stirred at 80° C. for 24 hours. After cooling to room temperature, the reaction mixture was adjusted to pH=11 by addition of an aqueous 8N sodium hydroxide solution and then extracted with chloroform. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to obtain the desired product (1.09 g, 19.8%) as a solid.

reactant | 3-oxo-3-phenylpropanenitrile | 34.4 mmol, 5.00 g | O=C(CC#N)C1=CC=CC=C1 | C9H7NO
reactant | hydroxylamine sulfate | 18.9 mmol, 3.10 g | S(=O)(=O)(O)O.NO
reactant | sodium hydroxide | 41.4 mmol, 35 ml, 1.66 g | [OH-].[Na+]
reactant | sodium hydroxide | 8N | [OH-].[Na+]
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | 3-Phenylisoxazole-5-amine | 1.09 g, 19.8% | C1(=CC=CC=C1)C1=NOC(=C1)N | C9H8N2O
